### PR TITLE
[Merged by Bors] - feat: divisibility lemmas for multivariate polynomials

### PR DESCRIPTION
**Pull request by AntoineChambert-Loir**
Prove several divisibility lemmas for multivariate polynomials, of the form:
if $$p$$ divides $$X ^ n * q$$, then there exists $$m\leq n$$ and $$p'$$ dividing $$q$$ such that $$p = X^m * p'$$.

They come from a particular case that was proven in #31161 .

---

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/Algebra/MvPolynomial/Basic.lean [hunk 1]
```diff
@@ -782,6 +782,56 @@ lemma support_nonempty {p : MvPolynomial σ R} : p.support.Nonempty ↔ p ≠ 0
 theorem exists_coeff_ne_zero {p : MvPolynomial σ R} (h : p ≠ 0) : ∃ d, coeff d p ≠ 0 :=
   ne_zero_iff.mp h
 
+theorem monomial_mul_cancel_left {m : σ →₀ ℕ} {a : R}
+    (ha : IsRegular a) (h : monomial m a * p = monomial m a * q) :
+    p = q := by
```
Comment (jcommelin) [inline Mathlib/Algebra/MvPolynomial/Basic.lean]:
```suggestion
theorem _root_.IsRegular.monomial {m : σ →₀ ℕ} {a : R}
    (ha : IsRegular a) :
    IsRegular (monomial m a) := by
  rw [← isLeftRegular_iff_isRegular]
  intro p q h
```

File: Mathlib/Algebra/MvPolynomial/Basic.lean [hunk 2]
```diff
@@ -782,6 +782,56 @@ lemma support_nonempty {p : MvPolynomial σ R} : p.support.Nonempty ↔ p ≠ 0
...
+  ext d
+  have h' := congr_arg  (coeff (m + d)) h
+  simp only [coeff_monomial_mul] at h'
+  rw [← ha.left.eq_iff, h']
+
+theorem monomial_mul_cancel_left_iff {m : σ →₀ ℕ} {a : R}
+    (ha : IsRegular a) :
+    monomial m a * p = monomial m a * q ↔ p = q := by
+  refine ⟨monomial_mul_cancel_left ha, fun h ↦ by simp [h]⟩
```
Comment (jcommelin) [inline Mathlib/Algebra/MvPolynomial/Basic.lean]:
```suggestion
    monomial m a * p = monomial m a * q ↔ p = q :=
  ha.monomial.left.eq_iff
```
I feel like this can now even be inlined. If you agree, then you could drop this lemma.

File: Mathlib/Algebra/MvPolynomial/Basic.lean [hunk 3]
```diff
@@ -782,6 +782,56 @@ lemma support_nonempty {p : MvPolynomial σ R} : p.support.Nonempty ↔ p ≠ 0
...
+
+theorem monomial_one_mul_cancel_left {m : σ →₀ ℕ}
```
Comment (jcommelin) [inline Mathlib/Algebra/MvPolynomial/Basic.lean]: Idem dito

File: Mathlib/Algebra/MvPolynomial/Basic.lean [hunk 4]
```diff
@@ -782,6 +782,56 @@ lemma support_nonempty {p : MvPolynomial σ R} : p.support.Nonempty ↔ p ≠ 0
...
+    (h : monomial m 1 * p = monomial m 1 * q) :
+    p = q :=
+  monomial_mul_cancel_left isRegular_one h
+
+theorem monomial_one_mul_cancel_left_iff {m : σ →₀ ℕ} :
```
Comment (jcommelin) [inline Mathlib/Algebra/MvPolynomial/Basic.lean:796]:
```suggestion
@[simp]
theorem monomial_one_mul_cancel_left_iff {m : σ →₀ ℕ} :
```

File: Mathlib/Algebra/MvPolynomial/Basic.lean [hunk 5]
```diff
@@ -782,6 +782,56 @@ lemma support_nonempty {p : MvPolynomial σ R} : p.support.Nonempty ↔ p ≠ 0
...
+    monomial m 1 * p = monomial m 1 * q ↔ p = q :=
+  monomial_mul_cancel_left_iff isRegular_one
+
+theorem X_mul_cancel_left_iff {i : σ} :
```
Comment (jcommelin) [inline Mathlib/Algebra/MvPolynomial/Basic.lean:801]:
```suggestion
@[simp]
theorem X_mul_cancel_left_iff {i : σ} :
```

File: Mathlib/Algebra/MvPolynomial/Basic.lean [hunk 6]
```diff
@@ -782,6 +782,56 @@ lemma support_nonempty {p : MvPolynomial σ R} : p.support.Nonempty ↔ p ≠ 0
...
+
+theorem monomial_mul_cancel_right_iff {m : σ →₀ ℕ} {a : R}
+    (ha : IsRegular a) :
+    p * monomial m a = q * monomial m a ↔ p = q := by
+  refine ⟨monomial_mul_cancel_right ha, fun h ↦ by simp [h]⟩
+
+theorem monomial_one_mul_cancel_right {m : σ →₀ ℕ}
+    (h : p * monomial m 1 = q * monomial m 1) :
+    p = q :=
+  monomial_mul_cancel_right isRegular_one h
```
Comment (jcommelin) [inline Mathlib/Algebra/MvPolynomial/Basic.lean]: Idem dito, I think these can be dropped.

File: Mathlib/Algebra/MvPolynomial/Basic.lean [hunk 7]
```diff
@@ -782,6 +782,56 @@ lemma support_nonempty {p : MvPolynomial σ R} : p.support.Nonempty ↔ p ≠ 0
...
+
+theorem monomial_one_mul_cancel_right_iff {m : σ →₀ ℕ} :
```
Comment (jcommelin) [inline Mathlib/Algebra/MvPolynomial/Basic.lean:806]:
```suggestion
@[simp]
theorem monomial_one_mul_cancel_right_iff {m : σ →₀ ℕ} :
```

File: Mathlib/Algebra/MvPolynomial/Basic.lean [hunk 8]
```diff
@@ -782,6 +782,56 @@ lemma support_nonempty {p : MvPolynomial σ R} : p.support.Nonempty ↔ p ≠ 0
...
+    p * monomial m 1 = q * monomial m 1 ↔ p = q :=
+  monomial_mul_cancel_right_iff isRegular_one
+
+theorem X_mul_cancel_right_iff {i : σ} :
```
Comment (jcommelin) [inline Mathlib/Algebra/MvPolynomial/Basic.lean:811]:
```suggestion
@[simp]
theorem X_mul_cancel_right_iff {i : σ} :
```

File: Mathlib/Algebra/MvPolynomial/Division.lean [hunk 9]
```diff
@@ -222,4 +223,162 @@ theorem X_dvd_monomial {i : σ} {j : σ →₀ ℕ} {r : R} :
...
+  ext n
+  rw [coeff_divMonomial, h, coeff_add, coeff_X_mul, left_eq_add, ← notMem_support_iff]
+  intro hn
+  simpa using hr _ hn
+
+instance [IsLeftCancelAdd R] :
+    IsLeftCancelAdd (MvPolynomial σ R) where
+  add_left_cancel := fun f g h H ↦ by
+    ext d
+    simpa using congr_arg (coeff d) H
```
Comment (jcommelin) [inline Mathlib/Algebra/MvPolynomial/Division.lean]:
```suggestion
instance [IsLeftCancelAdd R] :
    IsCancelAdd (MvPolynomial σ R) := by
  suffices IsLeftCancelAdd (MvPolynomial σ R) from
    AddCommMagma.IsLeftCancelAdd.toIsCancelAdd _
  refine { add_left_cancel := fun f g h H ↦ ?_ }
  ext d
  simpa using congr_arg (coeff d) H
```

File: Mathlib/Algebra/MvPolynomial/Division.lean [hunk 10]
```diff
@@ -222,4 +223,162 @@ theorem X_dvd_monomial {i : σ} {j : σ →₀ ℕ} {r : R} :
...
+    {σ : Type*} {i : σ} {p q r : MvPolynomial σ R}
+    (h : p = X i * q + r) (hr : ∀ n ∈ r.support, n i = 0) :
+    r = p.modMonomial (Finsupp.single i 1) := by
+  have h' := id h
+  rwa [← p.divMonomial_add_modMonomial_single i,
+    eq_divMonomial_single h hr, add_right_inj, eq_comm] at h'
+
+section CommRing
+
+variable {R : Type*} [CommRing R] {i : σ} {p q r : MvPolynomial σ R}
```
Comment (jcommelin) [inline Mathlib/Algebra/MvPolynomial/Division.lean:253]:
```suggestion
variable {R : Type*} [CommRing R] {i : σ} {p q r : MvPolynomial σ R}

```

File: Mathlib/Algebra/MvPolynomial/Division.lean [hunk 11]
```diff
@@ -222,4 +223,162 @@ theorem X_dvd_monomial {i : σ} {j : σ →₀ ℕ} {r : R} :
...
+      nth_rewrite 1 [← hq]
+      simp  only [add_mul, mul_add, add_assoc, add_sub_cancel_left]
+      simp only [← mul_assoc, mul_comm _ (X i)]
+      simp only [mul_assoc, ← mul_add (X i)]
+      apply dvd_mul_right
+  · intro h
+    rcases h with h | h
+    · exact dvd_mul_of_dvd_left h q
+    · exact dvd_mul_of_dvd_right h p
+
```
Comment (jcommelin) [inline Mathlib/Algebra/MvPolynomial/Division.lean:305]:
```suggestion

theorem X_prime [IsCancelMulZero R] [Nontrivial R] : Prime (X i : MvPolynomial σ R) := by
  refine ⟨X_ne_zero i, ?_, fun p q ↦ X_dvd_mul_iff.mp⟩
  intro h
  rw [isUnit_iff_exists] at h
  rcases h with ⟨u, hu, -⟩
  apply_fun constantCoeff at hu
  simp at hu

```

File: Mathlib/RingTheory/MvPolynomial/MonomialOrder/DegLex.lean [hunk 12]
```diff
@@ -41,11 +46,109 @@ theorem degLex_totalDegree_monotone (h : degLex.degree f ≼[degLex] degLex.degr
...
+end CommSemiring
+
+section CommRing
+
+variable [CommRing R] [IsCancelMulZero R] {p q r : MvPolynomial σ R}
+
+theorem dvd_monomial_iff_exists {n : σ →₀ ℕ} {a : R} (ha : a ≠ 0) :
+    p ∣ monomial n a ↔ ∃ m b, m ≤ n ∧ b ∣ a ∧ p = monomial m b := by
+  rw [show monomial n a = monomial n 1 * C a from by
+    rw [mul_comm, C_mul_monomial, mul_one],
```
Comment (jcommelin) [inline Mathlib/RingTheory/MvPolynomial/MonomialOrder/DegLex.lean]:
```suggestion
  rw [show monomial n a = monomial n 1 * C a by rw [mul_comm, C_mul_monomial, mul_one],
```

File: Mathlib/RingTheory/MvPolynomial/MonomialOrder/DegLex.lean [hunk 13]
```diff
@@ -41,11 +46,109 @@ theorem degLex_totalDegree_monotone (h : degLex.degree f ≼[degLex] degLex.degr
...
+    rw [h, mul_comm, hr, C_mul_monomial, mul_one]
+  · rintro ⟨b, hmn, hb, h⟩
+    use C b, hmn, map_dvd C hb
+    rwa [mul_comm, C_mul_monomial, mul_one]
+
+theorem dvd_monomial_one_iff_exists {n : σ →₀ ℕ} :
+    p ∣ monomial n 1 ↔ ∃ m u, m ≤ n ∧ IsUnit u ∧ p = monomial m u := by
+  rcases subsingleton_or_nontrivial R with hR | hR
+  · simp only [Subsingleton.allEq _ p, dvd_refl, isUnit_iff_eq_one, and_true, exists_eq_right,
+    true_iff]
```
Comment (jcommelin) [inline Mathlib/RingTheory/MvPolynomial/MonomialOrder/DegLex.lean]:
```suggestion
      true_iff]
```

File: Mathlib/RingTheory/MvPolynomial/MonomialOrder/DegLex.lean [hunk 14]
```diff
@@ -41,11 +46,109 @@ theorem degLex_totalDegree_monotone (h : degLex.degree f ≼[degLex] degLex.degr
...
+  rw [dvd_monomial_iff_exists (one_ne_zero' R)]
+  apply exists_congr
+  intro m
+  simp_rw [isUnit_iff_dvd_one]
+
+theorem dvd_X_iff_exists {i : σ} :
+    p ∣ X i ↔ ∃ r, IsUnit r ∧ (p = C r ∨ p = r • X i) := by
+  rw [show (X i : MvPolynomial σ R) = monomial (Finsupp.single i 1) 1 from
+    by rfl]
+  rw [dvd_monomial_one_iff_exists, exists_comm]
```
Comment (jcommelin) [inline Mathlib/RingTheory/MvPolynomial/MonomialOrder/DegLex.lean]:
```suggestion
  rw [X, dvd_monomial_one_iff_exists, exists_comm]
```

File: Mathlib/Algebra/MvPolynomial/Basic.lean (hunk 2 above)
Comment (AntoineChambert-Loir) [reply Mathlib/Algebra/MvPolynomial/Basic.lean]: dropped.

File: Mathlib/Algebra/MvPolynomial/Division.lean [hunk 15]
```diff
@@ -222,4 +223,173 @@ theorem X_dvd_monomial {i : σ} {j : σ →₀ ℕ} {r : R} :
...
+      · rw [mul_comm, coeff_modMonomial_of_le, zero_mul]
+        simpa [← Nat.one_le_iff_ne_zero] using hn
+    · nth_rewrite 1 [← hp]
+      nth_rewrite 1 [← hq]
+      simp  only [add_mul, mul_add, add_assoc, add_sub_cancel_left]
+      simp only [← mul_assoc, mul_comm _ (X i)]
+      simp only [mul_assoc, ← mul_add (X i)]
+      apply dvd_mul_right
+  · intro h
+    rcases h with h | h
```
Comment (jcommelin) [inline Mathlib/Algebra/MvPolynomial/Division.lean]:
```suggestion
  · rintro (h | h)
```

File: Mathlib/Algebra/MvPolynomial/Division.lean [hunk 16]
```diff
@@ -222,4 +223,173 @@ theorem X_dvd_monomial {i : σ} {j : σ →₀ ℕ} {r : R} :
...
+      simp only [Finset.mem_antidiagonal] at hx
+      simp only [← hx, Finsupp.coe_add, Pi.add_apply, Nat.add_eq_zero_iff, not_and_or] at hn
+      rcases hn with hn | hn
+      · rw [coeff_modMonomial_of_le, zero_mul]
+        simpa [← Nat.one_le_iff_ne_zero] using hn
+      · rw [mul_comm, coeff_modMonomial_of_le, zero_mul]
+        simpa [← Nat.one_le_iff_ne_zero] using hn
+    · nth_rewrite 1 [← hp]
+      nth_rewrite 1 [← hq]
+      simp  only [add_mul, mul_add, add_assoc, add_sub_cancel_left]
```
Comment (jcommelin) [inline Mathlib/Algebra/MvPolynomial/Division.lean]:
```suggestion
      simp only [add_mul, mul_add, add_assoc, add_sub_cancel_left]
```

File: Mathlib/Algebra/MvPolynomial/Division.lean [hunk 17]
```diff
@@ -222,4 +223,173 @@ theorem X_dvd_monomial {i : σ} {j : σ →₀ ℕ} {r : R} :
...
+      rw [← this, mul_assoc, X_mul_cancel_left_iff] at hp
+      use r
+    · obtain ⟨r, rfl⟩ := hir
+      replace hp : q = p * r := by
+        rwa [← mul_assoc, mul_comm p, mul_assoc, X_mul_cancel_left_iff] at hp
+      left
+      rw [hp]
+      exact dvd_mul_right p r
+  · rintro hp
+    rcases hp with hp | ⟨hi, hq⟩
```
Comment (jcommelin) [inline Mathlib/Algebra/MvPolynomial/Division.lean]:
```suggestion
  · rintro ⟨r, hp⟩
    have : X i ∣ p ∨ X i ∣ r := by simp [← X_dvd_mul_iff, ← hp]
    apply this.symm.imp
    · rintro ⟨r, rfl⟩
      obtain rfl : q = p * r := by rw [← X_mul_cancel_left_iff (i := i), hp, mul_left_comm]
      exact dvd_mul_right p r
    · intro hip
      refine ⟨hip, ?_⟩
      rw [X_dvd_iff_modMonomial_eq_zero] at hip
      rw [← p.modMonomial_add_divMonomial_single i, hip,
        zero_add, mul_assoc, X_mul_cancel_left_iff] at hp
      use r
  · rintro (hp | ⟨hi, hq⟩)
```

File: Mathlib/Algebra/MvPolynomial/Division.lean [hunk 18]
```diff
@@ -222,4 +223,173 @@ theorem X_dvd_monomial {i : σ} {j : σ →₀ ℕ} {r : R} :
...
+      conv_lhs => rw [← p.modMonomial_add_divMonomial (Finsupp.single i 1)]
+      simpa only [← C_mul_X_eq_monomial, C_1, one_mul, add_eq_right,
+        ← X_dvd_iff_modMonomial_eq_zero]
+
+theorem dvd_monomial_mul_iff_exists [IsCancelMulZero R] {n : σ →₀ ℕ} :
+    p ∣ monomial n 1 * q ↔ ∃ m r, m ≤ n ∧ r ∣ q ∧ p = monomial m 1 * r := by
+  rcases subsingleton_or_nontrivial R with hR | hR
+  · have : Subsingleton (MvPolynomial σ R) := by
+      exact Unique.instSubsingleton
+    simp only [this.allEq _ p, dvd_refl, and_self, and_true, exists_const, true_iff]
```
Comment (jcommelin) [inline Mathlib/Algebra/MvPolynomial/Division.lean]:
```suggestion
  · simp only [Subsingleton.elim _ p, dvd_refl, and_self, and_true, exists_const, true_iff]
```

File: Mathlib/Algebra/MvPolynomial/Division.lean [hunk 19]
```diff
@@ -222,4 +223,173 @@ theorem X_dvd_monomial {i : σ} {j : σ →₀ ℕ} {r : R} :
...
+    refine ⟨n, le_refl n⟩
+  suffices ∀ (d) (n : σ →₀ ℕ) (hd : n.degree = d) (p q : MvPolynomial σ R),
+    p ∣ monomial n 1 * q ↔ ∃ m r, m ≤ n ∧ r ∣ q ∧ p = monomial m 1 * r by
+    apply this n.degree n rfl
```
Comment (jcommelin) [inline Mathlib/Algebra/MvPolynomial/Division.lean]:
```suggestion
    p ∣ monomial n 1 * q ↔ ∃ m r, m ≤ n ∧ r ∣ q ∧ p = monomial m 1 * r from this n.degree n rfl p q
```

File: Mathlib/Algebra/MvPolynomial/Division.lean [hunk 20]
```diff
@@ -222,4 +223,173 @@ theorem X_dvd_monomial {i : σ} {j : σ →₀ ℕ} {r : R} :
...
+      rw [← hn', monomial_add_single, pow_one, mul_comm _ (X i), mul_assoc, dvd_X_mul_iff] at hp
+      rcases hp with hp | hp
+      · obtain ⟨m, r, hm, hr, hp⟩ := (hd n' hd' p q).mp hp
+        exact ⟨m, r, le_trans hm hnn', hr, hp⟩
+      · obtain ⟨p', hp'⟩ := hp.1
+        obtain ⟨m, r, hm, hr, hp⟩ := (hd n' hd' _ _).mp hp.2
+        use m + Finsupp.single i 1, r, ?_, hr
+        · simp [monomial_add_single, pow_one, mul_comm _ (X i), mul_assoc, ← hp,
+          hp']
+        · simpa [← hn'] using hm
```
Comment (jcommelin) [inline Mathlib/Algebra/MvPolynomial/Division.lean]:
```suggestion
    · obtain ⟨i, hi⟩ : n.support.Nonempty := by
        rw [Finsupp.support_nonempty_iff]
        intro hn'
        simp [hn'] at hn
      let n' := n - Finsupp.single i 1
      have hn' : n' + Finsupp.single i 1 = n := by
        apply Finsupp.sub_add_single_one_cancel
        rwa [← Finsupp.mem_support_iff]
      have hnn' : n' ≤ n := by simp [← hn']
      have hd' : n'.degree = d := by
        rw [← add_left_inj, ← hn, ← hn']
        simp
      rw [← hn', monomial_add_single, pow_one, mul_comm _ (X i), mul_assoc, dvd_X_mul_iff] at hp
      rcases hp with hp | hp
      · obtain ⟨m, r, hm, hr, hp⟩ := (hd n' hd' p q).mp hp
        exact ⟨m, r, le_trans hm hnn', hr, hp⟩
      · obtain ⟨p', rfl⟩ := hp.1
        obtain ⟨m, r, hm, hr, hp⟩ := (hd n' hd' _ _).mp hp.2
        use m + Finsupp.single i 1, r, ?_, hr
        · simp [monomial_add_single, pow_one, mul_comm _ (X i), mul_assoc, ← hp]
        · simpa [← hn'] using hm
```

File: Mathlib/RingTheory/MvPolynomial/MonomialOrder/DegLex.lean [hunk 21]
```diff
@@ -41,11 +46,106 @@ theorem degLex_totalDegree_monotone (h : degLex.degree f ≼[degLex] degLex.degr
...
+    rw [h, mul_comm, hr, C_mul_monomial, mul_one]
+  · rintro ⟨b, hmn, hb, h⟩
+    use C b, hmn, map_dvd C hb
+    rwa [mul_comm, C_mul_monomial, mul_one]
+
+theorem dvd_monomial_one_iff_exists {n : σ →₀ ℕ} :
+    p ∣ monomial n 1 ↔ ∃ m u, m ≤ n ∧ IsUnit u ∧ p = monomial m u := by
+  rcases subsingleton_or_nontrivial R with hR | hR
+  · simp only [Subsingleton.allEq _ p, dvd_refl, isUnit_iff_eq_one, and_true, exists_eq_right,
+      true_iff]
```
Comment (jcommelin) [inline Mathlib/RingTheory/MvPolynomial/MonomialOrder/DegLex.lean]:
```suggestion
  · suffices ∃ m, m ≤ n by simpa [Subsingleton.elim _ p]
```

File: Mathlib/RingTheory/MvPolynomial/MonomialOrder/DegLex.lean [hunk 22]
```diff
@@ -41,11 +46,106 @@ theorem degLex_totalDegree_monotone (h : degLex.degree f ≼[degLex] degLex.degr
...
+      · rw [← ne_eq] at hj; convert hmn j; rw [Finsupp.single_eq_of_ne hj]
+    · right
+      ext j
+      apply le_antisymm (hmn j)
+      by_cases hj : j = i
+      · simpa [hj, Nat.one_le_iff_ne_zero]
+      · rw [← ne_eq] at hj; simp [Finsupp.single_eq_of_ne hj]
+  · rintro ⟨hb, hp | hp⟩
+    · use 0; simp [hb, hp]
+    · use Finsupp.single i 1, le_refl _, hb, by simp [hp, smul_monomial]
```
Comment (jcommelin) [inline Mathlib/RingTheory/MvPolynomial/MonomialOrder/DegLex.lean]:
```suggestion
  · rintro ⟨m, hmn, hb, rfl⟩
    simp only [hb, true_and]
    suffices m = 0 ∨ m = Finsupp.single i 1 by
      apply this.imp <;> simp +contextual [smul_monomial, smul_eq_mul, mul_one]
    by_cases hm : m i = 0
    · left
      ext j
      simp only [Finsupp.coe_zero, Pi.zero_apply, ← Nat.le_zero]
      by_cases hj : j = i
      · rw [← hm, hj]
      · exact (hmn j).trans (Finsupp.single_eq_of_ne hj).le
    · right
      ext j
      apply le_antisymm (hmn j)
      by_cases hj : j = i
      · simpa [hj, Nat.one_le_iff_ne_zero]
      · simp [Finsupp.single_eq_of_ne hj]
  · rintro ⟨hb, hp | hp⟩
    · use 0; simp [hb, hp]
    · use Finsupp.single i 1, le_rfl, hb
      simp [hp, smul_monomial]
```

**Review by jcommelin — COMMENTED** [review]
Thanks :tada:

bors merge
